US07592358B2
49.1c. 2-ethynyl-3-fluoro-5-(4-methylcyclohex-1-enyl)pyridine
0.28 mL (2.00 mmol) of triethylamine was added to a solution of 348 mg (1.00 mmol) of 1-{6-[(tert-butyldimethylsilanyl)ethynyl]-5-fluoropyridin-3-yl}-4-methylcyclohexanol in 15 mL of DCM and then 0.15 mL (2.00 mmol) of methanesulfonic acid chloride was added dropwise while the mixture was cooled. The reaction was stirred for 2 hours at RT and then a further 0.15 mL (2.00 mmol) of methanesulfonic acid chloride were added and the mixture was stirred for 1 hour at RT. A further 0.58 mL (4.00 mmol) of triethylamine was added and the mixture was stirred for 1 hour at RT. The reaction mixture was combined with 50 mL of ice water. The organic phase was separated off, washed with water, and the solvent was removed in vacuo. The residue was dissolved in 25 mL of DCM and combined with 315 mg (1.00 mmol) of TBAF. The solution was stirred for 30 minutes at RT and then combined with water. The organic phase was separated off, washed several times with water, dried over magnesium sulfate, and the solvent was eliminated in vacuo. Yield: 130 mg (45% of theoretical; 75% content of product); C14H14FN (M=215.266); calc.: molpeak (M+H)+:216; found: molpeak (M+H)+:216.

reactant | triethylamine | 2.00 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | 1-{6-[(tert-butyldimethylsilanyl)ethynyl]-5-fluoropyridin-3-yl}-4-methylcyclohexanol | 1.00 mmol, 348 mg | [Si](C)(C)(C(C)(C)C)C#CC1=C(C=C(C=N1)C1(CCC(CC1)C)O)F | C20H30FNOSi
reactant | methanesulfonic acid chloride | 2.00 mmol, 0.15 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonic acid chloride | 2.00 mmol, 0.15 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 4.00 mmol, 0.58 mL | C(C)N(CC)CC | C6H15N
reactant | TBAF | 1.00 mmol, 315 mg | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-ethynyl-3-fluoro-5-(4-methylcyclohex-1-enyl)pyridine | C(#C)C1=NC=C(C=C1F)C1=CCC(CC1)C | C14H14FN
